US05380834
Preparation of 1,6-anhydro-3,4-dideoxy-3-methyl-β-D-glycero-hex-3-enopyranos-2-ulose (Intermediate No. 2)
5.3 g of tetramethyltin was added to 20 ml of a dry N-methylpyrrolidinone solution containing a mixture comprising 5 g of 1,6-anhydro-3,4-dideoxy-3-iodo-β-D-glycero-hex-3-enopyranos-2-ulose, 0.4 g of copper(I) iodide, 0.6 g of triphenylarsine and 0.4 g of dichlorobis(benzonitrile)palladium(II) under an inert atmosphere of nitrogen gas. The mixture was stirred at 80° C. for 4 hours. Then, 200 ml of ethyl acetate was added thereto, and the mixture was washed three times with 100 ml of a 10% potassium fluoride aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The obtained syrup product was purified by silica gel column chromatography (ethyl acetate: hexane=1:3) and then distilled under reduced pressure to obtain 1.61 g of the desired product (Intermediate No. 2) as a colorless transparent liquid. The NMR analytical data of this product are as follows.

reactant | tetramethyltin | 5.3 g | C[Sn](C)(C)C
reactant | N-methylpyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
reactant | 1,6-anhydro-3,4-dideoxy-3-iodo-β-D-glycero-hex-3-enopyranos-2-ulose | 5 g | IC=1C([C@H]2O[C@@H](C1)CO2)=O | C6H5IO3
reactant | triphenylarsine | 0.6 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
catalyst | copper(I) iodide | 0.4 g | [Cu]I
catalyst | dichlorobis(benzonitrile)palladium(II) | 0.4 g | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1,6-anhydro-3,4-dideoxy-3-methyl-β-D-glycero-hex-3-enopyranos-2-ulose | 1.61 g | CC=1C([C@H]2O[C@@H](C1)CO2)=O | C7H8O3
